US06794397B2
N-(4-Methoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from nicotinoyl chloride and 4-methoxy-2-nitroaniline and was obtained as an orange solid as described in Example 1. 1H NMR (DMSO-d6): 10.74 (s, 1H), 9.10 (d, J=2.4, 1H), 8.80-8.78 (m, 1H), 7.62-7.54 (m, 3H), 7.39-7.35 (m, 1H), 3.87 (s, 3H).

reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | N-(4-Methoxy-2-nitrophenyl)-3-pyridinecarboxamide | COC1=CC(=C(C=C1)NC(=O)C=1C=NC=CC1)[N+](=O)[O-] | C13H11N3O4
